US07259177B2
At −78° C., 22.2 ml of DMSO in 30 ml of dichloromethane are added dropwise to a solution of 12 ml of oxalyl chloride in 150 ml of dichloromethane such that the temperature does not exceed −70° C. The solution is then stirred at this temperature for 30 min. 24 g of 5-methyl-2-p-tolyloxazole-4-methanol in 120 ml of dichloromethane/chloroform (2/1) are then added dropwise, the temperature not exceeding −70° C. The solution is stirred at this temperature for 30 min. 80 ml of NEt3 are then added dropwise such that the temperature does not exceed −70° C. After the addition has ended, the cooling bath is removed and the solution is, with stirring, warmed to 0° C. At this temperature, 100 ml of water are added and the mixture is stirred vigorously at room temperature. The aqueous phase is separated off and extracted with chloroform. The combined organic phases are washed with saturated NH4Cl solution, dried over MgSO4 and concentrated, giving 23.8 g of 5-methyl-2-p-tolyloxazole-4-carbaldehyde as a yellow solid. C12H11 NO2 (201.23), LCMS(ESI): 202.1 (MH+).

reactant | DMSO | 22.2 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 12 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-methyl-2-p-tolyloxazole-4-methanol | 24 g | CC1=C(N=C(O1)C1=CC=C(C=C1)C)CO | C12H13NO2
reactant | NEt3 | 80 ml | CCN(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane chloroform | 120 ml | ClCCl.C(Cl)(Cl)Cl
product | 5-methyl-2-p-tolyloxazole-4-carbaldehyde | 23.8 g | CC1=C(N=C(O1)C1=CC=C(C=C1)C)C=O | C12H11NO2
